US06930120B2
2-Methyl-3-{4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]-phenyl}-2-(4-trifluoromethoxy-phenoxy)-propionic acid
The title compound was prepared from 3-(4-hydroxy-phenyl)-2-methyl-2-(4-trifluoromethoxy-phenoxy)-propionic acid ethyl ester and toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester using the procedure of Example 42. 1H NMR (400 MHz, CDCl3) δ 7.70-7.67 (m, 1H), 7.41 (dd, 1H, J=5.2, 1.2 Hz), 7.17 (d, 2H, J=8.8 Hz), 7.11-7.07 (m, 3H), 6.90 (d, 2H, J=8.8 Hz), 6.83 (d, 2H, J=8.8 Hz), 4.20 (t, 2H, J=6.6 Hz), 3.25 and 3.14 (d of Abq, 2H, J=14.0 Hz), 2.99 (t, 2H, J=6.4 Hz), 2.37 (s, 3H), 1.43 (s, 3H). IR (KBr) 3600, 3000, 1727, 1611, 1504, 1265 cm−1. HRMS (ES+) m/z exact mass calcd for C27H25NO6F3S 548.1354, found 548.1362.

reactant | 3-(4-hydroxy-phenyl)-2-methyl-2-(4-trifluoromethoxy-phenoxy)-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(OC1=CC=C(C=C1)OC(F)(F)F)C)=O | C19H19F3O5
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C=1SC=CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C17H17NO4S2
reactant | KBr | [K+].[Br-]
product | 2-Methyl-3-{4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]-phenyl}-2-(4-trifluoromethoxy-phenoxy)-propionic acid | CC(C(=O)O)(CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C=1SC=CC1)OC1=CC=C(C=C1)OC(F)(F)F | C27H24F3NO6S
